US08012976B2
To a solution of (E)-4-(4-(dimethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (600 mg, 1 mmol) and benzaldehyde (616 mg, 3 mmol) in ethyl propionate (20 mL), sodium methanolate (414 mg, 7.6 mmol) were added and the mixture was stirred at room temperature overnight. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate 20:1 to 5:1) to obtain a white solid of methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (120 mg, yield 22%). LC-MS (ESI) m/z: 432 (M+1)+.

reactant | (E)-4-(4-(dimethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 1 mmol, 600 mg | COC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OC | C18H17NO4
reactant | benzaldehyde | 3 mmol, 616 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium methanolate | 7.6 mmol, 414 mg | C[O-].[Na+]
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | methyl 2-(4-(dimethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 120 mg, yield 22% | COC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC)OC | C26H25NO5
